US04424167
2,3-Dichloro-3-methylsulphonyl-acrylonitrile
31 g (0.23 mol) of 3-methylsulphonyl-propionitrile were melted at 100° C. in a 100 ml four-necked flask, and 2.2 g of PCl3 and 0.7 g of pyridine were added. 34 g of chlorine (0.48 mol) were then introduced at 100° C. during the course of 7 hours. After further addition of 1.1 g of PCl3 and 0.4 g of pyridine, 10 g of chlorine were again introduced. After cooling, the reaction mixture was diluted with 30 ml of methylene chloride and extracted twice by shaking with 50 ml of water in each case, and the organic phase was concentrated. 30 g of dark brown oil which, after mixing with a little ethanol, cooling and filtering off under suction, gave 9.5 g (21%) of pale crystals, melting point 110° to 114° C., without the yield of mother liquor.

reactant | 3-methylsulphonyl-propionitrile | 0.23 mol, 31 g | CS(=O)(=O)CCC#N | C4H7NO2S
reactant | PCl3 | 2.2 g | P(Cl)(Cl)Cl | Cl3P
reactant | pyridine | 0.7 g | N1=CC=CC=C1 | C5H5N
reactant | chlorine | 0.48 mol, 34 g | ClCl | Cl2
reactant | PCl3 | 1.1 g | P(Cl)(Cl)Cl | Cl3P
reactant | pyridine | 0.4 g | N1=CC=CC=C1 | C5H5N
reactant | chlorine | 10 g | ClCl | Cl2
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2,3-Dichloro-3-methylsulphonyl-acrylonitrile | 9.5 g, 21% | ClC(C#N)=C(S(=O)(=O)C)Cl | C4H3Cl2NO2S
